US06169086A
Synthesis of 1-[1-(2-Amino-6-methylamino-4-pyrimidinyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene Hydrochloride
A mixture consisting of 300 mg of 1-[1-(2-amino-6-chloro-4-pyrimidinyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene, 10.2 ml of a 40% methylamine aqueous solution, and 15 ml of ethanol was stirred at 60° C. for 4.5 hours. The reaction mixture was concentrated, and a saturated sodium hydrogencarbonate aqueous solution was added to the residue. The mixture was extracted three times with chloroform. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was removed by evaporation, and the residue was subjected to silica gel column chromatography using a 19:1 mixture of chloroform and methanol as a developing solvent. The fraction containing the desired product was concentrated, and a 1N ethanolic solution of hydrochloric acid was added to the residue. Concentration followed by recrystallization from ethanol gave 95 mg of the title compound as a white powder.

reactant | 1-[1-(2-amino-6-chloro-4-pyrimidinyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene | 300 mg | NC1=NC(=CC(=N1)N1N=CC(=C1C)\C=C\CN1CCN(CC1)C1=CC(=CC(=C1)F)F)Cl | C21H22ClF2N7
reactant | methylamine | CN | CH5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-[1-(2-Amino-6-methylamino-4-pyrimidinyl)-5-methyl-4-pyrazolyl]-3-[4-(3,5-difluorophenyl)-1-piperazinyl]-1-trans-propene Hydrochloride | 95 mg | Cl.NC1=NC(=CC(=N1)N1N=CC(=C1C)\C=C\CN1CCN(CC1)C1=CC(=CC(=C1)F)F)NC | InChI=1S/C22H26F2N8.ClH/c1-15-16(14-27-32(15)21-13-20(26-2)28-22(25)29-21)4-3-5-30-6-8-31(9-7-30)19-11-17(23)10-18(24)12-19;/h3-4,10-14H,5-9H2,1-2H3,(H3,25,26,28,29);1H/b4-3+;
